US07220862B2
4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid {1-(1H-indazol-5-ylmethyl)-2-[4-(2-methyl-butyl)-piperazin-1-yl]-2-oxo-ethyl}-amide
A stirred solution of 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(1H-indazol-5-ylmethyl)-2-oxo-2-piperazin-1-yl-ethyl]-amide (100 mg, 0.188 mmol) in methanol (25 mL) was treated with 2-methyl-butyraldehyde (0.03 ml, 0.376 mmol). After 1 h at room temperature, sodium triacetoxyborohydride (80 mg, 0.316 mmol) was added. The mixture was allowed to stir overnight. The solution was filtered through an SCX cartridge. The cartridge was eluted first with methanol and then with a 1M solution of ammonia in methanol. The solvent was removed in vacuo to give the desired product in 50% yield. LC/MS: tR=1.31 min, 601(MH)+.

reactant | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(1H-indazol-5-ylmethyl)-2-oxo-2-piperazin-1-yl-ethyl]-amide | 0.188 mmol, 100 mg | N1N=CC2=CC(=CC=C12)CC(C(N1CCNCC1)=O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C28H34N8O3
reactant | 2-methyl-butyraldehyde | 0.376 mmol, 0.03 ml | CC(C=O)CC | C5H10O
reactant | sodium triacetoxyborohydride | 0.316 mmol, 80 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid {1-(1H-indazol-5-ylmethyl)-2-[4-(2-methyl-butyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 50% yield | N1N=CC2=CC(=CC=C12)CC(C(=O)N1CCN(CC1)CC(CC)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C33H44N8O3
